US04283384
Preparation of N-vinylpyrrolidone/N-methacryloyl D-glucosamine prepolymer
Into a 500 ml round bottom flask fitted with a stirrer and a nitrogen lead-in tube, 100 g of ethanol, 95 g of distilled N-vinylpyrrolidone, 5 g of N-methacryloyl D-glucosamine and 1 g of azo-bisisobutyronitrile are introduced.

reactant | nitrogen lead | [Pb].[N]
reactant | N-vinylpyrrolidone | 95 g | C(=C)N1C(CCC1)=O | C6H9NO
reactant | N-methacryloyl D-glucosamine | 5 g | C(C(=C)C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C10H17NO6
reactant | azo-bisisobutyronitrile | 1 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | ethanol | 100 g | C(C)O | C2H6O
product | N-vinylpyrrolidone N-methacryloyl D-glucosamine | C(=C)N1C(CCC1)=O.C(C(=C)C)(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | InChI=1S/C10H17NO6.C6H9NO/c1-4(2)9(15)11-6-8(14)7(13)5(3-12)17-10(6)16;1-2-7-5-3-4-6(7)8/h5-8,10,12-14,16H,1,3H2,2H3,(H,11,15);2H,1,3-5H2/t5-,6-,7-,8-,10?;/m1./s1
